US07572809B2
Similar procedure as described in the example 10 was used, starting from (1-Chloro-6-methoxy-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 2-propanol to give 5 mg of (1-Isopropoxy-6-methoxy-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine as a yellow solid. LC-MS m/e 327 (MH+).

reactant | (1-Chloro-6-methoxy-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C(=CC=C12)OC)C)NC1=NNC(=C1)C | C15H15ClN4O
solvent | 2-propanol | CC(C)O | C3H8O
product | (1-Isopropoxy-6-methoxy-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 5 mg | C(C)(C)OC1=NC(=CC2=C(C(=CC=C12)OC)C)NC1=NNC(=C1)C | C18H22N4O2
